US06605610B1
D) 10-Benzyl-3-phenyl-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene
(For a discussion, see: Miyaura, N.; Suzuki, A. Chem. Rev. 1995, 95, 2457-2483.) 10-Benzyl-3-iodo-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene (375.3 mg, 1.0 mmol), potassium acetate (785 mg, 8.0 mmol) and phenyl boronic acid (183 mg, 1.5 mmol) were combined in 10/1 ethanol/H2O (5 mL). The mixture was degassed (3 vacuum/N2 cycles), treated with tetrakis(triphenylphosphine)palladium(0) (57.5 mg, 0.05 mmol) and warmed to 90° C. for 18 h. The reaction was cooled, diluted with H2O and extracted with Et2O (3×50 mL). The organic layer was washed with brine (50 mL), dried (MgSO4), filtered and concentrated to provide an oil (180 mg, 55%). (TLC 4% ethyl acetate/hexanes Rf 0.18). GCMS m/e 325 (M)+.

reactant | 10-Benzyl-3-iodo-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene | 1.0 mmol, 375.3 mg | C(C1=CC=CC=C1)N1CC2C=3C=CC=C(C3C(C1)C2)I | C18H18IN
reactant | potassium acetate | 8.0 mmol, 785 mg | C(C)(=O)[O-].[K+]
reactant | phenyl boronic acid | 1.5 mmol, 183 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | ethanol H2O | 5 mL | C(C)O.O
solvent | H2O | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 57.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 10-Benzyl-3-phenyl-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene | 180 mg, 55% | C(C1=CC=CC=C1)N1CC2C=3C=CC=C(C3C(C1)C2)C2=CC=CC=C2 | C24H23N
